US06166208
Step C: Preparation of 2,3-Dihydro-6-iodo-3-propyl-2-thioxo-4(1H)-quinazolinone
To a solution of 2-amino-5-iodo-N-propylbenzamide (1.0 g, 3.1 mmol) and carbon disulfide (0.59 g, 9.38 mmol) in dimethylformamide (3.1 mL) was added potassium carbonate (0.43g, 3.1 mmol). The reaction mixture was heated to reflux for 2 h, cooled to room temperature, and added dropwise to 1N hydrochloric acid (25 mL). The resulting precipitate was filtered, washed with water (2×10 mL), methanol (2×10 mL) and diethyl ether (10 mL), and dried to deliver 1.04 g of the title compound, m.p. 267-269° C.; 1H NMR (300 MHz, Me2SO-d6): δ0.90 (t,3H); 1.68 (m,2H); 4.33 (t,2H); 7.18 (d,1H); 8.04 (dd,1H); 8.19 (d, 1H); 12.98 (s, 1H).

reactant | 2-amino-5-iodo-N-propylbenzamide | 3.1 mmol, 1.0 g | NC1=C(C(=O)NCCC)C=C(C=C1)I | C10H13IN2O
reactant | carbon disulfide | 9.38 mmol, 0.59 g | C(=S)=S | CS2
reactant | potassium carbonate | 3.1 mmol, 0.43g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N, 25 mL | Cl | ClH
solvent | dimethylformamide | 3.1 mL | CN(C=O)C | C3H7NO
product | 2,3-Dihydro-6-iodo-3-propyl-2-thioxo-4(1H)-quinazolinone | IC=1C=C2C(N(C(NC2=CC1)=S)CCC)=O | C11H11IN2OS
